### ISSUE TITLE
`exact? +grind` suggests `exact by grind.isClosed_range`

### ISSUE THREAD

**Issue by euprunin** [leanprover/lean4#11734]
### Description

`exact? +grind` suggests

```
Try this:
  [apply] exact by grind.isClosed_range
```

when used here:

```lean
import Mathlib.Algebra.Category.Ring.Colimits
import Mathlib.Topology.Algebra.Ring.Basic
open CategoryTheory
namespace n
variable {T1 T2 T3 : CommRingCat} [TopologicalSpace T1]
scoped instance : TopologicalSpace (T2 ⟶ T1) := .induced (fun f ↦ f.hom : _ → T2 → T1) inferInstance
theorem t (f : T2 ⟶ T3) (h : Function.Surjective f) : Topology.IsEmbedding ((f ≫ ·) : (T3 ⟶ T1) → (T2 ⟶ T1)) := by sorry
example  [T1Space T1] (f : T2 ⟶ T3) (h : Function.Surjective f) : Topology.IsClosedEmbedding ((f ≫ ·) : (T3 ⟶ T1) → (T2 ⟶ T1)) := by
  refine ⟨t f h, ?_⟩
  exact? +grind
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by euprunin** [comment]
Is this a known issue, or am I the only one running into problems with `exact? +grind`?

I’m happy to provide more examples if that would be helpful: the issue is fairly easy to reproduce.

**Comment by euprunin** [comment]
This appears to be fixed. Now I get an error message instead (which seems correct):

```
`exact?` could not close the goal. Try `apply?` to see partial suggestions.
```
